US06437196B1
In a reactor, 390 g of octanol, 2 g of aluminum triisopropoxide and 1.4 g of sulfuric acid were charged. After heating to 100° C., dehydration was conducted under reduced pressure (2.67 kPa). The residue was then cooled to 85° C., followed by the dropwise addition of 185 g of epichlorohydrin at a temperature maintained at 85° C. After stirring at 85° C. for 4 hours, an excess alcohol was removed at 100° C. under reduced pressure (0.67 kPa). To the crude octyl halohydrin ether thus obtained, 480 g of a 209 aqueous solution of sodium hydroxide was added and the resulting mixture was reacted at 90° C. for 2 hours. After completion of the reaction, the water layer was removed, whereby 315 g of crude octyl glycidyl ether was obtained. In an autoclave, 200 g of the resulting crude octyl glycidyl ether, 35 g of water, 11.8 g of 99% acetic acid and 12.1 g of a 48% aqueous solution of sodium hydroxide were charged, followed by stirring at 200° C. for 1 hour. At a temperature maintained at 200° C., 27.5 g of a 48% aqueous solution of sodium hydroxide was added dropwise over 3 hours and reaction was conducted for 1 hour. The reaction mixture was cooled to 80° C. While maintaining the temperature at 80° C., 150 g of water was added and the resulting mixture was stirred vigorously. The reaction mixture was allowed to stand to cause separation, followed by removal of the water layer. The operation from the addition of 150 g of water to the separation was then repeated three times. The reaction mixture was dehydrated at 100° C. under reduced pressure (5.32 kPa), whereby 224 g of monooctyl glyceryl ether was obtained. As a result of GLC, it was found that the resulting product had a purity of 91% and the content of organochlorine compounds was not greater than 100 ppm.

reactant | epichlorohydrin | 185 g | C(Cl)C1CO1 | C3H5ClO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | octanol | 390 g | C(CCCCCCC)O | C8H18O
catalyst | aluminum triisopropoxide | 2 g | CC([O-])C.CC([O-])C.CC([O-])C.[Al+3]
catalyst | sulfuric acid | 1.4 g | S(O)(O)(=O)=O | H2O4S
product | octyl glycidyl ether | 315 g | C(C1CO1)OCCCCCCCC | C11H22O2
